US09278983B2
h mixture of 6-bromo-2-(2-ethylsulfanylphenyl)-3-methyl-3H-imidazo[4,5-b]pyridine (0.35 g), tripotassium phosphate (0.42 g), phenylboronic acid (0.13 g), 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (0.03 g), tris(dibenzylideneacetone)palladium(0) (0.01 g), and 1,4-dioxane (3 ml) was stirred with heating at 70° C. for 2 hours, and then heated to 90° C., and stirred with heating for further 2 hours. Into the reaction mixture cooled to room temperature, saturated aqueous ammonium chloride solution was poured, and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 0.37 g of 2-(2-ethylsulfanylphenyl)-3-methyl-6-phenyl-3H-imidazo[4,5-b]pyridine (hereinafter referred to as Present Compound 56).

reactant | 6-bromo-2-(2-ethylsulfanylphenyl)-3-methyl-3H-imidazo[4,5-b]pyridine | 0.35 g | BrC=1C=C2C(=NC1)N(C(=N2)C2=C(C=CC=C2)SCC)C | C15H14BrN3S
reactant | tripotassium phosphate | 0.42 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | phenylboronic acid | 0.13 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 0.03 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 2-(2-ethylsulfanylphenyl)-3-methyl-6-phenyl-3H-imidazo[4,5-b]pyridine | 0.37 g | C(C)SC1=C(C=CC=C1)C1=NC=2C(=NC=C(C2)C2=CC=CC=C2)N1C | C21H19N3S
